US07087601B2
To 300 mL of degassed THF was added methyl 3-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate (20.95 g, 66.7 mmol), 2-pyridylzinc bromide (200 mL of 0.5M solution in THF, 100 mmol), and tetrakis(triphenylphosphine)palladium(0) (5.00 g, 4.3 mmol). The mixture was degassed with argon for an additional 30 minutes and heated at reflux under an argon atmosphere overnight. The reaction mixture was cooled to rt and concentrated in vacuo. The resultant brown residue was partitioned between EtOAc (1500 mL) and 50% saturated NaHCO3 (1000 mL). The aqueous layer was extracted with EtOAc (500 mL), and the combined organic layers washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography (0–25% EtOAc/hexanes) to give methyl 3-methoxy-4-pyridin-2-ylbenzoate as a colorless solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.70 (d, 1H), 7.92–7.83 (m, 3H), 7.70–7.65 (m, 2H), 7.40–7.36 (m, 1H), 3.91 (s, 3H), 3.90 (s, 3H).

reactant | methyl 3-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 66.7 mmol, 20.95 g | COC=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H9F3O6S
reactant | 2-pyridylzinc bromide | 100 mmol, 0.5M, 200 mL | [Br-].N1=C(C=CC=C1)[Zn+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.3 mmol, 5.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | methyl 3-methoxy-4-pyridin-2-ylbenzoate | COC=1C=C(C(=O)OC)C=CC1C1=NC=CC=C1 | C14H13NO3
